US07868036B2
g) 3,6-Diethoxy-2-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyl}-2,5-dihydropyrazine
3.03 ml of n-butyllithium (1.6M in hexane) are added dropwise at −40° C. to the suspension of 0.884 g of 3,6-diethoxy-2,5-dihydropyrazine in 12 ml of tetrahydrofuran. After 20 minutes, a solution of 1.265 g of 7-(2-bromomethyl-3-methylbutyl)-1-(2-methoxyethoxy)naphthalene in 5 ml of tetrahydrofuran is added dropwise. The reaction mixture is stirred further at −40″C. for 30 minutes, then warmed to −20° C. over 1 hour. After 18 hours, the reaction mixture is concentrated by evaporation—the residue is partitioned between ethyl acetate and water. The aqueous phase is extracted with ethyl acetate (2×)—the combined organic phases are washed successively with water (2×) and brine, dried over sodium sulphate and concentrated by evaporation. The crude title compound is identified on the basis of the Rf value from the residue.

reactant | n-butyllithium | 1.6M, 3.03 ml | C(CCC)[Li]
reactant | 3,6-diethoxy-2,5-dihydropyrazine | 0.884 g | C(C)OC=1CN=C(CN1)OCC | C8H14N2O2
reactant | 7-(2-bromomethyl-3-methylbutyl)-1-(2-methoxyethoxy)naphthalene | 1.265 g | BrCC(CC1=CC=C2C=CC=C(C2=C1)OCCOC)C(C)C | C19H25BrO2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,6-Diethoxy-2-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyl}-2,5-dihydropyrazine | C(C)OC=1C(N=C(CN1)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C27H38N2O4
